US06268444B1
Preparation of (3-(dimethylamino)-5,6,7,8-tetrahydro-2,5,5,8,8-pentamethyl-1H-benz(f)indenyl)lithium, (2).
3-(dimethylamino)-5,6,7,8-tetrahydro-2,5,5,8,8-pentamethyl-1H-benz(f)indene (2.11 g, 7.46 mmol) was stirred in hexane (75 mL) as n-BuLi (4.10 mL of 2.0 M solution in hexane, 8.20 mmol) was added slowly. This mixture was allowed to stir overnight during which time a pale yellow precipitate formed. After the reaction period the desired product was collected via filtration, washed with hexane, and dried under vacuum resulting in the isolation of a pale yellow solid which was used without further purification or analysis (2.00 g, 93 percent yield).

reactant | 3-(dimethylamino)-5,6,7,8-tetrahydro-2,5,5,8,8-pentamethyl-1H-benz(f)indene | 7.46 mmol, 2.11 g | CN(C1=C(CC=2C=C3C(=CC12)C(CCC3(C)C)(C)C)C)C | C20H29N
reactant | n-BuLi | 8.20 mmol, 2.0 M, 4.10 mL | [Li]CCCC
solvent | hexane | 75 mL | CCCCCC | C6H14
product | (3-(dimethylamino)-5,6,7,8-tetrahydro-2,5,5,8,8-pentamethyl-1H-benz(f)indenyl)lithium | 93 percent yield | CN(C1=C(C(C=2C=C3C(=CC12)C(CCC3(C)C)(C)C)[Li])C)C | InChI=1S/C20H28N.Li/c1-13-10-14-11-16-17(12-15(14)18(13)21(6)7)20(4,5)9-8-19(16,2)3;/h10-12H,8-9H2,1-7H3;
